US08557834B2
N-[(6-Hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine
Barbituric acid (512 mg, 4 mmol) was dissolved in a mixture of dichloromethane (3 mL) and DMF (5 mL). N,N-Diisopropylethylamine (2 mL) was added followed by ethyl isocyanatoacetate (645 mg, 5 mmol) and the solution was stirred overnight. After evaporation of all volatiles, the residue was re-dissolved in a mixture of ethanol (5 mL) and 1M aqueous NaOH (5 mL). After stirring at room temperature for one hour, this solution was neutralized by addition of 1M aqueous HCl. The resulting solid was collected, washed with water, and dried under vacuum overnight to give the title compound (202 mg, 22%). LC/MS m/z 230 (M+H+).

reactant | Barbituric acid | 4 mmol, 512 mg | N1C(=O)NC(=O)CC1=O | C4H4N2O3
reactant | N,N-Diisopropylethylamine | 2 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl isocyanatoacetate | 5 mmol, 645 mg | N(=C=O)CC(=O)OCC | C5H7NO3
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-[(6-Hydroxy-2,4-dioxo-1,2,3,4-tetrahydro-5-pyrimidinyl)carbonyl]glycine | 202 mg, 22% | OC1=C(C(NC(N1)=O)=O)C(=O)NCC(=O)O | C7H7N3O6
